US04792551
2-(9-Anthryloxy)ethyl chloride (7.0 g) and potassium phthalimide (2.8 g) were heated to 130° C. in dimethylformamide (70 ml) for 7 hours. The cooled solution was added to water and extracted with ethyl acetate. The extract was dried and evaporated to yield N-[2-(9-anthryloxy)ethyl]phthalimide.

reactant | 2-(9-Anthryloxy)ethyl chloride | 7.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)OCCCl | C16H13ClO
reactant | potassium phthalimide | 2.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-[2-(9-anthryloxy)ethyl]phthalimide | C1=CC=CC2=CC3=CC=CC=C3C(=C12)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C24H17NO3
